US06531474B1
To a solution of 735 mg (3 mmol) of N-Boc-4-hydroxyproline methyl ester in 20 mL of THF stirred at 0° C. was added 79 mg (1.1 eq, 3.3 mmol) of 60% sodium hydride in mineral oil. The mixture was stirred at 0° C. for 1 hour, and methyl iodide (0.56 mL, 3 eq, 9 mmol) was added. The mixture was stirred at room temperature overnight, quenched by addition of saturated aqueous ammonium chloride, diluted with water, and extracted with three 80 mL portions of ethyl acetate. The combined organic extracts were washed with brine, dried (MgSO4), and concentrated in vacuo to afford a pale yellow oil. The oil was taken up in 9 mL of CH3OH and 3 mL of water, and 378 mg (3 eq, 9 mmol) of lithium hydroxide was added. The mixture was stirred at room temperature overnight, diluted with water, acidified to pH 3 and extracted with three 80 mL portions of ethyl acetate. The combined organic extracts were washed with brine, dried (MgSO4) and concentrated in vacuo. The residual oil was taken up in 10 mL of TFA and the solution was stirred at room temperature for 2 hours, and concentrated in vacuo. The residual oil was diluted with 6 mL of 10% aqueous sodium carbonate and 3 mL of dioxane, and a solution of 9-fluorenylmethyl chloroformate (779 mg, 1 eq, 3 mmol) in 5 mL of dioxane was added. The mixture was stirred at room temperature overnight, diluted with water, acidified to pH 3 and extracted with three 80 mL portions of ethyl acetate. The combined organic extracts were washed with brine, dried (MgSO4) and concentrated in vacuo to afford an oil, which was purified by column chromatography over silica gel eluted with CH2Cl2/CH3OH 20:1, to afford 600 mg (55%) of N-Fmoc-4-methoxyproline: exact mass calculated for C21H21NO5 m/e 367.14 found m/e 368.4.

reactant | N-Boc-4-hydroxyproline methyl ester | 3 mmol, 735 mg | COC([C@H]1N(CC(C1)O)C(=O)OC(C)(C)C)=O | C11H19NO5
reactant | sodium hydride | 3.3 mmol, 79 mg, 1.1 eq | [H-].[Na+]
reactant | methyl iodide | 9 mmol, 0.56 mL, 3 eq | CI | CH3I
reactant | lithium hydroxide | 9 mmol, 378 mg, 3 eq | [OH-].[Li+]
reactant | 9-fluorenylmethyl chloroformate | 3 mmol, 779 mg, 1 eq | ClC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12 | C15H11ClO2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | CH3OH | 9 mL | CO | CH4O
solvent | water | 3 mL | O | H2O
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | N-Fmoc-4-methoxyproline | 600 mg, 55% | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)N1[C@H](C(=O)O)CC(C1)OC | C21H21NO5
